US04263302
(2) Synthesis of 1-ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylic acid:
Sodium hydroxide (1.6 g) was dissolved in 30 ml of water, and 2 g of ethyl 1-ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate was added, and the mixture was stirred at 90° C. for 2 hours. The insoluble matter was removed, and the filtrate was adjusted to pH 1 with dilute hydrochloric acid under ice cooling. The crystals that precipitated were collected by filtration to afford 0.72 g of the captioned product. The product had a melting point of 212° to 214° C. (uncorrected). The infrared absorption spectrum (KBr tablet method) of the product had maximum absorptions at 3460, 2960, 1740, 1710, 1640 and 1495 cm-1. The nuclear magnetic resonance spectrum (CF3COOH, 60 Mc, TMS) had signals at δ1.70 (3H, t, J=7.5 Hz), 2.2-2.75 (2H, m), 2.8-3.2 (2H, m), 3.3-3.65 (2H, m), 4.64 (2H, q, J=7.5 Hz) and 9.30 (1H, s).

reactant | Sodium hydroxide | 1.6 g | [OH-].[Na+]
reactant | ethyl 1-ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylate | 2 g | C(C)N1C=C(C(C=2C(CCCC12)=O)=O)C(=O)OCC | C14H17NO4
solvent | water | 30 ml | O | H2O
product | 1-ethyl-4,5-dioxo-1,4,5,6,7,8-hexahydroquinoline-3-carboxylic acid | 0.72 g | C(C)N1C=C(C(C=2C(CCCC12)=O)=O)C(=O)O | C12H13NO4
